Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zestril
 
Attending: ___.
 
Chief Complaint:
Exertional chest pain
 
Major Surgical or Invasive Procedure:
Transesophageal Echocardiogram
Direct Current Cardioversion

 
History of Present Illness:
___ year old male with PMHx of HTN, HLD, and DM, presented with 
exertional chest pain to ___ Urgent Care. Patient was 
climbing the stairs at ___ when he started having chest 
pain. At the request of his PCP, he presented to ___ urgent 
care and was found to be in atrial flutter with diffuse ST 
depressions. He was given aspirin and then transferred to 
___ for further management. His pain lasted ___ minutes 
and resolved spontaneously. He had not had a recurrence of chest 
pain since arriving on the ward.
 
Past Medical History:
Diabetes
Hypertension
Dyslipidemia
Hypothyroidism
Trigeminal Neuralgia
GERD
Semicircular canal dehiscensce s/p brain surgery Mass Eye Ear
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. 
 
Physical Exam:
ON ADMISSION:
=============
VITALS: T 98.5 PO, BP 138/90, HR 114, O2 sat 96% on RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with no elevated JVP
CARDIAC: Tachycardiac. No m/r/g 
LUNGS: CTAB 
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No edema.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

AT DISCHARGE:
=============
VITALS: 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.  
NECK: Supple with no elevated JVP
CARDIAC: RRR. S1, S2 present. No m/r/g 
LUNGS: CTAB 
ABDOMEN: Soft, NT. Distended (per patient, at baseline). No HSM 
or tenderness.  
EXTREMITIES: No edema/swelling.
PULSES: DP 2+ ___.
 
Pertinent Results:
LABS on ADMISSION:
==================
___ 07:45PM BLOOD WBC-10.9* RBC-5.06 Hgb-15.3 Hct-44.1 
MCV-87 MCH-30.2 MCHC-34.7 RDW-14.1 RDWSD-44.9 Plt ___
___ 07:45PM BLOOD Neuts-54.7 ___ Monos-7.5 Eos-3.1 
Baso-0.4 Im ___ AbsNeut-5.98 AbsLymp-3.57 AbsMono-0.82* 
AbsEos-0.34 AbsBaso-0.04
___ 07:45PM BLOOD ___ PTT-29.8 ___
___ 07:45PM BLOOD Glucose-268* UreaN-21* Creat-1.2 Na-135 
K-4.1 Cl-95* HCO3-26 AnGap-14
___ 07:45PM BLOOD cTropnT-<0.01
___ 07:45PM BLOOD TSH-4.5*

LABS at DISCHARGE:
==================
___ 10:32AM BLOOD WBC-9.0 RBC-4.94 Hgb-14.8 Hct-44.3 MCV-90 
MCH-30.0 MCHC-33.4 RDW-14.2 RDWSD-46.3 Plt ___
___ 10:32AM BLOOD ___ PTT-31.0 ___
___ 10:32AM BLOOD Glucose-171* UreaN-16 Creat-1.0 Na-139 
K-4.6 Cl-101 HCO3-26 AnGap-12
___ 10:32AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.8

IMAGING/STUDIES:
================
TTE ___
CONCLUSION:
The left atrium is mildly dilated. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
The visually estimated left
ventricular ejection fraction is 55-60%. There is no resting 
left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus is mildly dilated with
mildly dilated ascending aorta. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. There 
is no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with
no mitral valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

IMPRESSION: Normal biventricular cavity sizes, regional/global 
systolic function. No valvular pathology or pathologic flow 
identified. Normal estimated pulmonary artery systolic pressure.

TEE ___
CONCLUSION:
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage. The left atrial appendage 
ejection velocity is normal. There is no evidence for an atrial 
septal defect by 2D/color Doppler. Overall left ventricular 
systolic function is normal. There are simple atheroma in the 
aortic arch with no atheroma in the descending aorta. The aortic 
valve leaflets (3) appear structurally normal. No masses or 
vegetations are seen on the aortic valve. No abscess is seen. 
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal. No masses or vegetations are seen on 
the mitral valve. No abscess is seen. There is physiologic 
mitral regurgitation. The tricuspid valve
leaflets appear structurally normal. No mass/vegetation are seen 
on the tricuspid valve. No abscess is seen. There is no 
tricuspid regurgitation.

IMPRESSION: No spontaneous echo contrast/thrombus in the ___. 
Normal left ventricular systolic function. Mild aortic arch 
atheroma.

CARDIAC CATH ___
Coronary Description

The coronary circulation is right dominant.

LM: The left main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the left anterior 
descending and left circumflex systems. There is a 20% stenosis 
in the mid and distal segments.

LAD: The left anterior descending artery, which arises from the 
LM, is a smaller caliber vessel. There is a 20% stenosis in the 
proximal segment. It runs toward but not around the apex. The 
septal perforator, arising from the mid segment, is a small 
caliber vessel.

Left Circumflex: The Circumflex artery, which arises from the 
left main is a large caliber and large distribution vessel. 
There is a 20% stenosis in the proximal segment. The OMBs extend 
toward the lateral wall of the myocardium without disease.

RCA: The right coronary artery, arising from the right cusp, is 
a large caliber vessel. There is a 20% stenosis in the proximal 
segment. It is a hyperdominant vessel. The SinoAtrial, arising 
from the proximal segment, is a small caliber vessel. The Right 
Posterolateral Artery, arising from the distal segment, is a 
large caliber vessel.

The Right Posterior Descending Artery, arising from the distal 
segment, is a large caliber vessel.

Aortogram: No evidence of an anomalous coronary artery

Findings
• No angiographically apparent coronary artery disease.
• New onset atypical atrial flutter
 
Brief Hospital Course:
___ year old male with PMHx of HTN, HLD, and DM, arrived at 
___ Urgent Care with exertional chest pain and found 
to be in new atrial flutter. Patient was transferred to ___ 
for further evaluation. Patient underwent cardiac catherization 
with only mild stenosis of his cardiac arteries identified. He 
had a TEE to rule out thrombus and subsequently underwent DCCV. 
He had remained in sinus rhythm with stable vital signs since 
undergoing DCCV. A repeat TTE was performed without identifiable 
concerns. Patient was discharged in good condition.

==============
ACTIVE ISSUES:
==============
# Atrial Flutter: Patient presented with chest pain iso new 
onset of atrial flutter. Chest pain resolved spontaneously after 
___ minutes. He had been asymptomatic since his arrival on the 
ward. TEE and DCCV were performed. Patient restored to sinus 
rhythm which was sustained after DCCV. VSS. TTE was performed 
prior to discharge. Patient was started on apixaban for 
anticoagulation and Metoprolol XL for rate control.

===============
CHRONIC ISSUES:
===============
# HTN
- Continued losartan
- Started on Metoprolol XL

====================
TRANSITIONAL ISSUES:
====================

MEDICATIONS:
============
New:
- Apixaban 5mg PO BID
- Metoprolol Succinate XL PO 50mg Q Daily

Changed:
- None

Stopped:
- Aspirin

[ ] PCP ___
[ ] Cardiology ___
[ ] Repeat EKG to see if patient remains in sinus rhythm
[ ] Check blood pressure to ensure that patient is tolerating 
the additional Metoprolol XL

CODE: FULL
CONTACT: HCP: None chosen by patient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 60 Units Bedtime
2. Atorvastatin 80 mg PO QPM 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. glimepiride 2 mg oral DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Bydureon (exenatide microspheres) 2 mg/0.65 mL subcutaneous 
QWEEKLY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Glargine 60 Units Bedtime 
4.  Atorvastatin 80 mg PO QPM  
5.  Bydureon (exenatide microspheres) 2 mg/0.65 mL subcutaneous 
QWEEKLY  
6.  glimepiride 2 mg oral DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Atrial Flutter

SECONDARY DIAGNOSIS:
====================
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having exertional chest 
pain and was found to have an abnormal heart rhythm called 
"atrial flutter".

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a procedure called "cardiac catheterization" which 
showed mild narrowing in the blood vessels supplying your heart.
- We checked your heart for blood clot by placing a probe down 
your throat. No blood clot was identified.
- A procedure called "Direct Current Cardioversion" was 
performed to shock your abnormal heart rhythm back to normal 
sinus rhythm.
- We started you on medications to control your heart rate and 
prevent blood clots.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please follow up with your primary care doctor.
- Please follow up with your cardiologist.
- While in the hospital, we stopped your aspirin, please do not 
take this medicine after leaving the hospital.
- Please take your other medicines as prescribed.

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Healthcare Team  

 
Followup Instructions:
___